US04006145
12 g of 10,11-dihydro-2-trifluoromethyl-dibenzo[b,f]-thiepin-10-one are dissolved in 110 ml of absolute ethanol and treated with 4 g of sodium borohydride. The mixture is held at reflux for 12 minutes, cooled to 30° C and treated with 350 ml of water and 100 ml of chloroform. After equilibration, the organic phase is washed with aqueous sodium chloride solution, dried over sodium sulphate and evaporated under reduced pressure. There is obtained 10,11-dihydro-2-trifluoromethyl-dibenzo[b,f]thiepin-10-ol in the form of yellow crystals which melt at 122°-123° C.

reactant | 10,11-dihydro-2-trifluoromethyl-dibenzo[b,f]-thiepin-10-one | 12 g | FC(C1=CC2=C(SC3=C(C(C2)=O)C=CC=C3)C=C1)(F)F | C15H9F3OS
reactant | sodium borohydride | 4 g | [BH4-].[Na+]
reactant | water | 350 ml | O | H2O
reactant | chloroform | 100 ml | C(Cl)(Cl)Cl | CHCl3
solvent | ethanol | 110 ml | C(C)O | C2H6O
product | 10,11-dihydro-2-trifluoromethyl-dibenzo[b,f]thiepin-10-ol | FC(C1=CC2=C(SC3=C(C(C2)O)C=CC=C3)C=C1)(F)F | C15H11F3OS
